US04898949
A. 3,3-Bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoyl chloride
To a solution of dry (0.1 mmHg at 80° C.) 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoic acid 3.8 g (11.0 mmoles) in 20 mL of dry methylene chloride was added 4 mL (46.0 mmoles) of purified oxalyl chloride (redistilled over CaH2) in one single portion. The reaction mixture was warmed gradually to reflux temperature for two hours. The mixture was evaporated under reduced pressure to remove volatile solvent, then excess oxalyl chloride was removed under vacuum (20 mmHg) at ambient temperature for 2 hours and under high vacuum (0.1 mmHg) at 50° C. for 16 hours to give the title compound.

reactant | 3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoic acid | 11.0 mmoles, 3.8 g | FC1=CC=C(C=C1)C(=C(C(=O)O)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H12F2N4O2
reactant | oxalyl chloride | 46.0 mmoles, 4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoyl chloride | FC1=CC=C(C=C1)C(=C(C(=O)Cl)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H11ClF2N4O
